US05141941
Synthesis of dl-5-chloro-6-ethyl-4-{α-ethyl-4-(4-cyano-2,3,5,6-tetrafluorophenoxy) benzylamino}pyrimidine:
A mixture of 0.76 g of dl-5-chloro-6-ethyl-4-(αethyl-4-hydroxybenzylamino)pyrimidine, 0.5 g of pentafluorobenzonitrile, 0.4 g of anhydrous potassium carbonate and 20 ml of 1,3-dimethyl-2-imidazolidinone (DMI) was heated under stirring at 70 .C for 8 hours. After completion of the reaction, the reaction mixture was poured into water, and extracted with toluene. The extract was washed with water, dried over anhydrous sodium sulfate and then toluene was evaporated under reduced pressure. The oily product obtained was isolated by column chromatography (Wako gel C-200, eluted with toluene:ethyl acetate=10:1) to give 0.8 g of the desired product as a colorless oily product.

reactant | dl-5 chloro-6-ethyl-4-(αethyl-4-hydroxybenzylamino)pyrimidine | 0.76 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)O)CC)CC
reactant | pentafluorobenzonitrile | 0.5 g | FC1=C(C(=C(C(=C1C#N)F)F)F)F | C7F5N
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dimethyl-2-imidazolidinone | 20 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | dl-5 chloro-6-ethyl-4-{α-ethyl-4-(4-cyano-2,3,5,6-tetrafluorophenoxy) benzylamino}pyrimidine | 0.8 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)OC1=C(C(=C(C(=C1F)F)C#N)F)F)CC)CC | InChI=1S/C22H17ClF4N4O.C18H34N4O2/c1-3-12-9-16(31-22(23)29-12)30-15(4-2)11-5-7-13(8-6-11)32-21-19(26)17(24)14(10-28)18(25)20(21)27;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h5-9,15H,3-4H2,1-2H3,(H,29,30,31);6-7,14,20-23H,2-5,8-13,15,19H2,1H3
